US05882628
d. 1-(1,2-Dihydroxyethyl)-3,5-diaminobenzene
1-(1,2-Dihydroxyethyl)-3,5-dinitrobenzene (0.10 g, 0.44 mmol) was dissolved in methanol (35 ml) and hydrogenation was carried out at 60 psi using a Pd/C catalyst (10%, 50 mg). The catalyst was filtered off and the solution was evaporated. Yield: 0.074 g (100%).

reactant | 1-(1,2-Dihydroxyethyl)-3,5-dinitrobenzene | 0.44 mmol, 0.10 g | OC(CO)C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C8H8N2O6
solvent | methanol | 35 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 1-(1,2-Dihydroxyethyl)-3,5-diaminobenzene | OC(CO)C1=CC(=CC(=C1)N)N | C8H12N2O2
